US09259001B2
Under an atmosphere of argon, 50.0 g (189 mmol) of 2,6-dibromo-4-methylaniline in 500 ml of dry dichloromethane were cooled to a temperature of 0° C.-5° C. At this temperature, 15.7 g (198 mmol) of pyridine were added. At a temperature of 5° C.-7° C., 41.6 g (198 mmol) of trifluoroacetic anhydride were then added dropwise. The reaction mixture was stirred at this temperature for 1 h and then at room temperature (RT) for 16 h. For work-up, the contents were washed once with water and then twice with 1M hydrochloric acid. The organic phase was dried and the filtrate was freed of the solvent. 69.3 g of N-(trifluoroacetyl)-2,6-dibromo-4-methylaniline were obtained as residue.

reactant | 2,6-dibromo-4-methylaniline | 189 mmol, 50.0 g | BrC1=C(N)C(=CC(=C1)C)Br | C7H7Br2N
reactant | pyridine | 198 mmol, 15.7 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 198 mmol, 41.6 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | N-(trifluoroacetyl)-2,6-dibromo-4-methylaniline | 69.3 g | FC(C(=O)NC1=C(C=C(C=C1Br)C)Br)(F)F | C9H6Br2F3NO
